US04493843
A mixture containing 2-(n-eicosyl)indole-5-carboxylic acid (12.8 g), 5% w/w palladium on charcoal (2.0 g), 72% w/v aqueous perchloric acid (10 ml) and glacial acetic acid (150 ml) was heated by steam whilst shaken under hydrogen. Afterwards the mixture was filtered hot through diatomaceous earth, the residue was washed with hot glacial acetic acid (400 ml), and the combined filtrates were concentrated in vacuo to about 100 ml. The residue was poured into a mixture of ice and water, 50% w/v aqueous sodium hydroxide was added to pH 12 and acetic acid was then added to pH 4-5. The product was collected and recrystallised from methanol to give (RS)-2-(n-eicosyl)indoline-5-carboxylic acid hemimethanolate (4.8 g) as a pale brown solid. m.p. 110°-115° C.

reactant | 2-(n-eicosyl)indole-5-carboxylic acid | 12.8 g | C(CCCCCCCCCCCCCCCCCCC)C=1NC2=CC=C(C=C2C1)C(=O)O | C29H47NO2
reactant | perchloric acid | 10 ml | Cl(=O)(=O)(=O)O | ClHO4
catalyst | palladium on charcoal | 2.0 g | [Pd] | Pd
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | (RS)-2-(n-eicosyl)indoline-5-carboxylic acid | C(CCCCCCCCCCCCCCCCCCC)C1NC2=CC=C(C=C2C1)C(=O)O | C29H49NO2
